US04452788
A mixture of 4-(1,3-dipropyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)benzenesulfonic acid (3.93 g, 0.01 moles) and N,N-dimethylformamide (100 ml) is prepared, cooled to 0° C., treated with thionyl chloride (2.4 g, 0.02 moles), and permitted to warm to ambient temperature with vigorous stirring. The resulting slurry is cooled to 0° C., treated with a solution of unsym dimethylethylenediamine (8.8 g, 0.10 mole) in N,N-dimethylformamide (11 ml) added in one portion, and allowed to warm to ambient temperature. The resulting solution is concentrated on a rotary evaporator. The residue is suspended in water, filtered, recrystallized from ethanol, and dried at 78° to yield 0.60 grams of N-[2-(dimethylamino)ethyl]-4-(2,3,6,7-tetrahydro-2,6-dioxo-1,3-dipropyl-1H-purin-8-yl)benzenesulfonamide, mp, 270°-272° C.(d).

reactant | 4-(1,3-dipropyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)benzenesulfonic acid | 0.01 moles, 3.93 g | C(CC)N1C(N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)S(=O)(=O)O)CCC)=O | C17H20N4O5S
reactant | thionyl chloride | 0.02 moles, 2.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | unsym dimethylethylenediamine | 0.10 mole, 8.8 g | CN(C)CCN | C4H12N2
solvent | N,N-dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-[2-(dimethylamino)ethyl]-4-(2,3,6,7-tetrahydro-2,6-dioxo-1,3-dipropyl-1H-purin-8-yl)benzenesulfonamide | 0.60 grams | CN(CCNS(=O)(=O)C1=CC=C(C=C1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC)C | C21H30N6O4S
